US07371743B2
(a) ethyl 4-[2-(tert.-butoxycarbonyl-methoxy)-1-methyl-ethylamino]-3-chloro-benzoate
1.12 g (4.35 mmol) ethyl 3-chloro-4-(2-hydroxy-1-methyl-ethylamino)-benzoate are combined in 10 ml DMF with 0.21 g (4.78 mmol) 55% sodium hydride dispersion and stirred for 5 min at ambient temperature. Then 0.67 ml tert.-butyl bromoacetate are added and the mixture is stirred for a further 16 h at ambient temperature. Then the reaction mixture is poured into water and extracted with ethyl acetate. The combined organic phases are washed with water and sat. sodium chloride solution, dried over sodium sulphate and evaporated down completely i. vac. The residue is purified by chromatography on silica gel (eluting gradient: petroleum ether/ethyl acetate=95:5->80:20)

reactant | ethyl 3-chloro-4-(2-hydroxy-1-methyl-ethylamino)-benzoate | 4.35 mmol, 1.12 g | ClC=1C=C(C(=O)OCC)C=CC1NC(CO)C | C12H16ClNO3
reactant | sodium hydride | 4.78 mmol, 0.21 g | [H-].[Na+]
reactant | tert.-butyl bromoacetate | 0.67 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 4-[2-(tert.-butoxycarbonyl-methoxy)-1-methyl-ethylamino]-3-chloro-benzoate | C(C)(C)(C)OC(=O)COCC(C)NC1=C(C=C(C(=O)OCC)C=C1)Cl | C18H26ClNO5
